US04117125
To a solution of 12.5 g. (35.6 mmol) 1-[2-[[(carbethoxy)methyl]amino]ethyl]-5-[(4-methoxybenzyl)thio]-1H-tetrazole in 250 ml. of methanol and 65 ml. of water was added a solution of 25.5 g. (80 mmol) of mercuric acetate in 80 ml. of water. The mixture was stirred at room temperature for 15 hours and at reflux for 1 hour. After thorough cooling, the mixture was treated with hydrogen sulfide gas for 1.5 hours. The dark mixture was heated over a steam bath for 1.5 hours and filtered. The filtrate was evaporated in vacuo to dryness. The residue was recrystallized from ethyl acetate to give 5.9 g. of 1-[2-[(carboxymethyl)amino]ethyl]-1,4-dihydro-5H-tetrazole-5-thione (82.8% yield) mp 215°-220° dec.

reactant | 1-[2-[[(carbethoxy)methyl]amino]ethyl]-5-[(4-methoxybenzyl)thio]-1H-tetrazole | 35.6 mmol | C(=O)(OCC)CNCCN1N=NN=C1SCC1=CC=C(C=C1)OC | C15H21N5O3S
reactant | methanol | CO | CH4O
reactant | hydrogen sulfide | S | H2S
solvent | water | O | H2O
product | 1-[2-[(carboxymethyl)amino]ethyl]-1,4-dihydro-5H-tetrazole-5-thione | 82.8% yield | C(=O)(O)CNCCN1N=NNC1=S | C5H9N5O2S
